US08389520B2
(6-Hydrazinopyridin-3-yl)methanol
220.0 g (1.5 mol) (6-chloropyridin-3-yl)methanol [Evans et al., Organic Letters 2001, 19, 3009-3012] are initially introduced into 746 ml (767.1 g, 15.3 mol) hydrazine hydrate and the mixture is stirred at a bath temperature of 150° C. for 5 h. The reaction mixture is concentrated in vacuo, the residue is taken up in 500 ml water and 86.0 g (1.5 mol) potassium hydroxide are added. The mixture is stirred for 15 min, the water is then removed almost completely on a rotary evaporator and the residues of water are distilled off azeotropically with toluene several times. The oily residue is stirred in ethanol, the mixture is cooled to approx. 10° C., the potassium chloride which has precipitated out is filtered off, the filtrate is concentrated, diethyl ether is added to the residue and the mixture is stirred. Finally, the product is filtered off, the residue on the filter is washed with diethyl ether and the crystals are dried in vacuo.

reactant | (6-chloropyridin-3-yl)methanol | 1.5 mol, 220.0 g | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | hydrazine hydrate | 15.3 mol, 746 ml, 767.1 g | O.NN
reactant | potassium hydroxide | 1.5 mol, 86.0 g | [OH-].[K+]
product | (6-Hydrazinopyridin-3-yl)methanol | N(N)C1=CC=C(C=N1)CO | C6H9N3O
